US09388189B2
1-(4-Fluorophenyl)-N-(3-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methanesulfonamide
3-Methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (822 mg, 3.29 mmol), was treated with (4-fluorophenyl)methanesulfonyl chloride (1.03 ml, 4.93 mmol) according to the method described in Preparation 15b to give 1.26 g (94% yield) of the title compound. Purity 97%.

reactant | 3-Methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 3.29 mmol, 822 mg | COC=1C=C(N)C=C(C1)B1OC(C(O1)(C)C)(C)C | C13H20BNO3
reactant | (4-fluorophenyl)methanesulfonyl chloride | 4.93 mmol, 1.03 ml | FC1=CC=C(C=C1)CS(=O)(=O)Cl | C7H6ClFO2S
product | 1-(4-Fluorophenyl)-N-(3-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methanesulfonamide | 1.26 g, 94% yield | FC1=CC=C(C=C1)CS(=O)(=O)NC1=CC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)OC | C20H25BFNO5S
